US06555536B2
Intermediate 1: Dihydro-3-(2-nitrophenoxy)-2-(3H)-furanone
A mixture of 2-nitrophenol (20 g, 0.14 mol) and K2CO3 (25.2 g, 0.18 mol) in 280 mL DMF was cooled to 0 ° C. 2-Bromobutyrolactone was added dropwise, the reaction was stirred for 45 min at 0° C., then stirred at room temperature for 3 hours (h). The mixture was poured into 2 L water containing approx. 200 g salt, and the solution was washed with 6×100 mL of 1:1 diethyl ether/ethyl acetate. The combined organics were washed with 2×100 mL sat'd aq. K2CO3, 5×100 mL water and 100 mL brine, dried (Na2SO4), and filtered. Solvent was removed in vacuo to yield the title compound as an off-white solid (21.88 g, 0.1 mol). 1H (CDCl3): 7.84 (d, 1H, J=7.9), 7.57 (t, 1H, J=7.5), 7.49 (d, 1H, J=7.9), 7.16 (t, 1H, J=7.5), 5.03 (t, 1H, J=7.4), 4.58 (m, 1H), 4.42 (m, 1H), 2.8-2.6 (m, 2H).

reactant | 2-nitrophenol | 0.14 mol, 20 g | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
reactant | K2CO3 | 0.18 mol, 25.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-Bromobutyrolactone | BrC1C(=O)OCC1 | C4H5BrO2
reactant | water | 2 L, approx. 200 g | O | H2O
solvent | DMF | 280 mL | CN(C)C=O | C3H7NO
product | Dihydro-3-(2-nitrophenoxy)-2-(3H)-furanone | 0.1 mol, 21.88 g | [N+](=O)([O-])C1=C(OC2C(OCC2)=O)C=CC=C1 | C10H9NO5
